US08466169B2
and 42 mg of 1-[3-amino-5-(pentafluorosulfanyl)phenyl]ethanone trifluoroacetic acid salt were obtained.
N-Methyl-3-amino-6-ethoxy-1H-isoindole-5-carboxamide (30 mg, purchased from Chembiotek) was reacted with N-[3-(2-bromoacetyl)-5-pentafluorosulfanylphenyl]-2,2,2-trifluoroacetamide (50 mg) analogously to example 3b). 31 mg of the desired compound were obtained.

reactant | N-Methyl-3-amino-6-ethoxy-1H-isoindole-5-carboxamide | 30 mg | CNC(=O)C=1C=C2C(=NCC2=CC1OCC)N | C12H15N3O2
reactant | N-[3-(2-bromoacetyl)-5-pentafluorosulfanylphenyl]-2,2,2-trifluoroacetamide | 50 mg | BrCC(=O)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)NC(C(F)(F)F)=O | C10H6BrF8NO2S
product | 1-[3-amino-5-(pentafluorosulfanyl)phenyl]ethanone trifluoroacetic acid salt | 31 mg | FC(C(=O)O)(F)F.NC=1C=C(C=C(C1)S(F)(F)(F)(F)F)C(C)=O | InChI=1S/C8H8F5NOS.C2HF3O2/c1-5(15)6-2-7(14)4-8(3-6)16(9,10,11,12)13;3-2(4,5)1(6)7/h2-4H,14H2,1H3;(H,6,7)
